US04128540
A mixture consisting of 2.4 g. of N-benzyloxycarbonyl-L-seryl-L-tyrosylglycyl-L-leucine methyl ester, 60 ml. of methanol, 240 mg. of 5% palladium-on-carbon, and 5.4 ml. of 1.26 N hydrogen chloride in methanol is hydrogenated at one atmosphere and 25° C. for one hour. The mixture is then filtered to remove the catalyst, and the filtrate is evaporated to dryness under reduced pressure to give an amorphous solid residue of L-seryl-L-tyrosylglycyl-L-leucine methyl ester hydrochloride; [α]D25 -12.9° (2% in methanol); λmax 278, E11 33.6 (methanol).

reactant | N-benzyloxycarbonyl-L-seryl-L-tyrosylglycyl-L-leucine methyl ester | COC([C@@H](NC(CNC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O)CC1=CC=C(C=C1)O)=O)=O)CC(C)C)=O | C29H38N4O9
reactant | hydrogen chloride | 1.26 N | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | L-seryl-L-tyrosylglycyl-L-leucine methyl ester hydrochloride | Cl.COC([C@@H](NC(CNC([C@@H](NC([C@@H](N)CO)=O)CC1=CC=C(C=C1)O)=O)=O)CC(C)C)=O | InChI=1S/C21H32N4O7.ClH/c1-12(2)8-17(21(31)32-3)24-18(28)10-23-20(30)16(25-19(29)15(22)11-26)9-13-4-6-14(27)7-5-13;/h4-7,12,15-17,26-27H,8-11,22H2,1-3H3,(H,23,30)(H,24,28)(H,25,29);1H/t15-,16-,17-;/m0./s1
